US07417060B2
To a solution of [4-[2-[benzyl(tert-butoxycarbonyl)amino]ethyl]phenyl]boronic acid (3.1 g) in 1,2-dimethoxyethane (45 ml) were added methyl 3-nitro-4-[[(trifluoromethyl)sulfonyl]oxy]benzoate (3.0 g), tetrakis(triphenylphosphine)palladium (800 mg) and aqueous solution of sodium carbonate (2M, 9.1 ml), and the mixture was stirred at 80° C. for 4 hours under nitrogen. The mixture was diluted with ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=3/1) to give methyl 4′-[2-[benzyl(tert-butoxycarbonyl)amino]ethyl]-2-nitro-4-biphenylcarboxylate (3.05 g).

reactant | [4-[2-[benzyl(tert-butoxycarbonyl)amino]ethyl]phenyl]boronic acid | 3.1 g | C(C1=CC=CC=C1)N(CCC1=CC=C(C=C1)B(O)O)C(=O)OC(C)(C)C | C20H26BNO4
reactant | methyl 3-nitro-4-[[(trifluoromethyl)sulfonyl]oxy]benzoate | 3.0 g | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1OS(=O)(=O)C(F)(F)F | C9H6F3NO7S
reactant | sodium carbonate | 2M, 9.1 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 45 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 800 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4′-[2-[benzyl(tert-butoxycarbonyl)amino]ethyl]-2-nitro-4-biphenylcarboxylate | 3.05 g | C(C1=CC=CC=C1)N(CCC1=CC=C(C=C1)C1=C(C=C(C=C1)C(=O)OC)[N+](=O)[O-])C(=O)OC(C)(C)C | C28H30N2O6
